US07622500B2
2-[(1-Methylprop-2-en-1-yl)oxy]benzonitrile
To a mixture of salicylonitrile (2.0 g, 16.8 mmol) and but-3-en-2-ol (1.5 ml, 16.8 mmol) in tetrahydrofuran (100 ml) was added triphenylphosphine (4.4 g, 16.8 mmol), followed by diisopropyl azodicarboxylate (3.3 ml, 16.8 mmol) in tetrahydrofuran (15 ml), added dropwise ensuring the reaction temperature did not rise above 20° C. The reaction mixture was stirred at room temperature for 18 h and then concentrated in vacuo. To the residue was added diethyl ether (20 ml) and the solution was washed with aqueous sodium hydroxide solution (1N), dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (silica) with gradient elution, diethyl ether:cyclohexane [1:9 to 1:1]. The appropriate fractions were combined and concentrated to give the title compound (1.9 g).

reactant | salicylonitrile | 16.8 mmol, 2.0 g | C(C=1C(O)=CC=CC1)#N | C7H5NO
reactant | but-3-en-2-ol | 16.8 mmol, 1.5 ml | CC(C=C)O | C4H8O
reactant | triphenylphosphine | 16.8 mmol, 4.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 16.8 mmol, 3.3 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-[(1-Methylprop-2-en-1-yl)oxy]benzonitrile | 1.9 g | CC(C=C)OC1=C(C#N)C=CC=C1 | C11H11NO
